US09029366B2
A solution of 2-(benzyloxy)-5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.53 g, 1.51 mmol) in a mixture of AcOEt/DMF (1.8/1.8 mL) was hydrogenated in a H-Cube reactor (1.5 ml/min, 70 mm, Pd(OH)2/C cartridge, full H2 mode, 80° C., 1 cycle). The solvents were evaporated in vacuo to yield 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol (0.39 g, 90% yield) as a white solid, that was used in the next step without further purification.

reactant | 2-(benzyloxy)-5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 1.51 mmol, 0.53 g | C(C1=CC=CC=C1)OC1=NN2C(CN(CC2)C(=O)C2=CC=C(C=C2)F)=C1 | C20H18FN3O2
solvent | AcOEt DMF | 1.8 mL | CCOC(=O)C.CN(C)C=O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol | 0.39 g, 90% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)O | C13H12FN3O2
